.include "NAND.sub"
.subckt XOR node_a node_b node_out vdd gnd 
X1 node_a node_b node_c vdd gnd NAND
X2 node_a node_c node_d vdd gnd NAND
X3 node_b node_c node_e vdd gnd NAND
X4 node_e node_d node_out vdd gnd NAND
.ends XOR